US08614234B2
To a stirred solution of methyl {1-[(5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]piperidin-4-yl}acetate (50 mg, 0.085 mmol) in THF/MeOH (5 ml/5 ml) was added 1M NaOH solution (3 ml, 3 mmol). The mixture was stirred at room temperature for one hour, and poured into 50 ml of water. 2M HCl was added until pH=4. The resulting precipitates were filtered, washed with water, and dried in vacuo to give {1-[(5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]piperidin-4-yl}acetic acid as white solid. Yield: 47 mg, 96%.

reactant | methyl {1-[(5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]piperidin-4-yl}acetate | 0.085 mmol, 50 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)N2CCC(CC2)CC(=O)OC)C=C1 | C32H32FN5O5
reactant | NaOH | 3 mmol, 1M, 3 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | THF MeOH | 5 ml | C1CCOC1.CO
product | {1-[(5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]piperidin-4-yl}acetic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)N2CCC(CC2)CC(=O)O)C=C1 | C31H30FN5O5
